US07423056B2
a.) 3-Benzo[b]thiophen-2-yl-acrylic acid tert-butyl ester (Scheme 3)
Potassium bis(trimethylsilyl)amide (5.4 g, 0.027 mol) was added to a solution of 18-Crown-6 (13.7 g, 0.052 mol) and (diphenoxy-phosphoryl)-acetic acid tert-butyl ester (9.4 g, 0.027 mol) in dry THF (120 mL) at −780C. After 30 minutes of stirring at this temperature, benzo[b]thiophene-2-carbaldehyde (4.0 g, 0.024 mol) was added and the reaction was stirred for 3 hours at −780C after which the reaction was quenched with saturated ammonium chloride (200 mL). The reaction mix was allowed to come to room temperature and was extracted with ethyl acetate (3×200 mL) and the combined organic extracts were washed with 10% HCl (200 mL), brine (200 mL), and dried over MgSO4. The solvent was evaporated in vacuo leaving the crude product that was purified by column chromatography (SiO2) using a 5-40% ethylacetate-hexane gradient to afford the subtitle compound (4.64 g, yield: 74%). MS calculated for C15H16O2S+H: 261, observed: 261.

reactant | Potassium bis(trimethylsilyl)amide | 0.027 mol, 5.4 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 18-Crown-6 | 0.052 mol, 13.7 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | (diphenoxy-phosphoryl)-acetic acid tert-butyl ester | 0.027 mol, 9.4 g | C(C)(C)(C)OC(CP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1)=O | C18H21O5P
reactant | benzo[b]thiophene-2-carbaldehyde | 0.024 mol, 4.0 g | S1C2=C(C=C1C=O)C=CC=C2 | C9H6OS
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 3-Benzo[b]thiophen-2-yl-acrylic acid tert-butyl ester | 4.64 g, yield: 74% | C(C)(C)(C)OC(C=CC1=CC2=C(S1)C=CC=C2)=O | C15H16O2S
